datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C)[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])=C(C)C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)/C(C)=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CC)C>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CC)[O-:10])C 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(C)C(C)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][S:10]C([H])C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[O]CC.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[O]CC 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[O:10]([K])C(CCC)C(C)C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)=C([H])C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)/C([H])=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"CC[NH:10][H].C[NH+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C([H])[CH](CC)[S]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[OH:10]C(C)/C([H])=C([H])\C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C([H])=C([H])C(C)[OH+:10]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C([O:21]1)C)C)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)C)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OCC)[H].[O-:21]CC>>C1=CC=CC=C1N([C:20]([O-:10])(OCC)[O:21]CC)[H] 21=20;20,10=10"
"[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OCC)CCCCCC>>[Na][O:21]CCCCCC.[C:20](=[O:10])(OCCCCCC)OCC 10=20;20,21=21"
"[O-:10]C1=C(C([H])[C:20](C)=[O:21])C=CC=C1>>[O-:21][C:20]2([O:10]C(C=CC=C3)=C3C2[H])C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]CC)([O][H])[O]C.[Cl-]>>[Cl-].CC[NH:10][H].CC[NH+:21]=[C:20]([O][H])[O]C 21=20;20,10=10"
